US06589978B2
(2S,5S)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-1H-pyrazole
The title compound, colorless oil, MS: m/e=428.5 (M+H′) and [α]D20=−67.7° (c=0.2955 in chloroform), was prepared in accordance with the general method of example 82b from (2R,5S)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 1H-pyrazole.

reactant | (2R,5S)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCC[C@@H]1N([C@@H](CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C20H23ClFNO2S
reactant | 1H-pyrazole | N1N=CC=C1 | C3H4N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2S,5S)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-1H-pyrazole | FC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1S(=O)(=O)C1=CC=C(C=C1)C)CCCN1N=CC=C1 | C23H26FN3O2S
